US08067415B2
A slurry of N-{2-[(3R)-1,3′-bipyrrolidin-3-ylamino]-2-oxoethyl}-3-(trifluoromethyl)benzamide (50 mg, 0.13 mmol), methyl 4-bromobenzoate (35 mg, 0.16 mmol), Pd2(dba)3 (12 mg, 0.013 mmol), cesium carbonate (64 mg, 0.19 mmol) and R-BINAP (8 mg, 0.013 mmol) in toluene was heated at 100° C. overnight. To the mixture was added NaHCO3 (sat. aq., 10 mL) and dichloromethane (10 mL). The organic layer was separated and the aqueous layer was washed with an addition portion of dichloromethane (10 mL). The organic layers were combined, dried over Na2SO4, filtered and concentrated. The resulting crude product was subjected to flash chromatography (15% MeOH, 1% NH4OH in EtOAc) to afford, as a mixture of diastereomers, methyl 4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]-1,3′-bipyrrolidin-1′-yl}benzoate (20 mg, 30%) as a white solid. 1H-NMR (CDCl3) δ: 1.60-1.76 (m, 1H), 1.86-2.04 (m, 1H), 2.08-2.25 (m, 1H), 2.20-2.44 (m, 2H), 2.60-2.78 (m, 2H), 2.84-3.00 (m, 2H), 3.18 (q, J=8.7 Hz, 1H), 3.32 (q, J=7.5 Hz, 1H), 3.40-3.54 (m, 2H), 3.82 (s, 3H), 4.10 (m, 2H), 4.40-4.56 (m, 1H), 6.44 (d, J=8.7 Hz, 2H), 6.54 (d, J=2.4 Hz, 1H), 7.20-7.35 (m, 1H), 7.54 (t, J=7.8 Hz, 1H), 7.74 (d, J=8.1 Hz, 1H), 7.87 (d, J=8.4 Hz, 2H), 7.97 (d, J=7.8 Hz, 1H), 8.07 (s, 1H). MS m/z: 519 (M+1)

reactant | N-{2-[(3R)-1,3′-bipyrrolidin-3-ylamino]-2-oxoethyl}-3-(trifluoromethyl)benzamide | 0.13 mmol, 50 mg | N1(C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C1CNCC1 | C18H23F3N4O2
reactant | methyl 4-bromobenzoate | 0.16 mmol, 35 mg | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
reactant | cesium carbonate | 0.19 mmol, 64 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.013 mmol, 12 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | methyl 4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]-1,3′-bipyrrolidin-1′-yl}benzoate | 20 mg, 30% | FC(C=1C=C(C(=O)NCC(=O)N[C@H]2CN(CC2)C2CN(CC2)C2=CC=C(C(=O)OC)C=C2)C=CC1)(F)F | C26H29F3N4O4
